US07638517B2
7-Chloro-1-(3-chloro-1-(S)-phenyl-propyl)-1H-pyrrolo[3,2-b]pyridine was prepared from 7-chloro-1H-pyrrolo[3,2-b]pyridine and 3-chloro-1-(R)-phenyl-propan-1-ol following the procedure of steps 1 and 2 of Example 11 (20% yield, 40 mg).

reactant | 7-chloro-1H-pyrrolo[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=CN2 | C7H5ClN2
reactant | 3-chloro-1-(R)-phenyl-propan-1-ol | ClCC[C@@H](O)C1=CC=CC=C1 | C9H11ClO
product | 7-Chloro-1-(3-chloro-1-(S)-phenyl-propyl)-1H-pyrrolo[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=CN2[C@@H](CCCl)C2=CC=CC=C2 | C16H14Cl2N2
